US08440666B2
2-[5-Chloro-3-hydroxy-6-oxo-4-{[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]amino}pyridazin-1(6H)-yl]-N-(pyridin-4-ylmethyl)acetamide Hydrochloride
2-[5-Chloro-6-oxo-4-{[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]amino}-3-{[2-(trimethylsilyl)ethoxy]methoxy}pyridazin-1(6H)-yl]-N-(pyridin-4-ylmethyl)acetamide (12 mg, 0.0208 mmol) in methanol (1 mL) was stirred with 10 mass % hydrogen chloride-methanol (5 mL) at 60° C. for 5 hours. After completion of the reaction, the reaction solution was concentrated under reduced pressure and purified by preparative HPLC to give the desired product.

reactant | 2-[5-Chloro-6-oxo-4-{[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]amino}-3-{[2-(trimethylsilyl)ethoxy]methoxy}pyridazin-1(6H)-yl]-N-(pyridin-4-ylmethyl)acetamide | 0.0208 mmol, 12 mg | ClC1=C(C(=NN(C1=O)CC(=O)NCC1=CC=NC=C1)OCOCC[Si](C)(C)C)N[C@H]1[C@@H]([C@@H]2C([C@H](C1)C2)(C)C)C | C28H42ClN5O4Si
reactant | hydrogen chloride methanol | 5 mL | Cl.CO
solvent | methanol | 1 mL | CO | CH4O
product | 2-[5-Chloro-3-hydroxy-6-oxo-4-{[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]amino}pyridazin-1(6H)-yl]-N-(pyridin-4-ylmethyl)acetamide Hydrochloride | Cl.ClC1=C(C(=NN(C1=O)CC(=O)NCC1=CC=NC=C1)O)N[C@H]1[C@@H]([C@@H]2C([C@H](C1)C2)(C)C)C | InChI=1S/C22H28ClN5O3.ClH/c1-12-15-8-14(22(15,2)3)9-16(12)26-19-18(23)21(31)28(27-20(19)30)11-17(29)25-10-13-4-6-24-7-5-13;/h4-7,12,14-16,26H,8-11H2,1-3H3,(H,25,29)(H,27,30);1H/t12-,14+,15-,16-;/m1./s1
